US06403804B1
Synthesis of Ethyl (R)-4-Hexanoylamino-3-Hydroxybutyrate
In a 200 ml autoclave were charged 8.50 g (29.5 mmol) of ethyl (R)-4-azido-3-hexanoyloxybutyrate, 0.20 g of 5% Pd—C, and 16 ml of ethyl acetate, and the mixture was stirred at room temperature under a hydrogen pressure of 1000 KPa. for 7 hours. The catalyst was removed for concentration to give 7.07 g (87%) of the title compound.

reactant | ethyl (R)-4-azido-3-hexanoyloxybutyrate | 29.5 mmol, 8.50 g | N(=[N+]=[N-])C[C@@H](CC(=O)OCC)OC(CCCCC)=O | C12H21N3O4
reactant | ethyl acetate | 16 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd—C | 0.20 g | [Pd] | Pd
product | Ethyl (R)-4-Hexanoylamino-3-Hydroxybutyrate | 7.07 g, 87% | C(CCCCC)(=O)NC[C@@H](CC(=O)OCC)O | C12H23NO4
